US07834051B2
2-chloro-4-[(2S,3R,4R)-2-ethyl-3-hydroxy-4-methyl-5-oxopyrrolidin-1-yl]benzonitrile
A solution of diisopropylamine (0.208 mL) in tetrahydrofuran (8 mL) was cooled to −78° C., n-butyllithium-hexane solution (0.885 mL, 1.6 mol/L) was added dropwise, and the mixture was stirred for 1 hr. A solution of 2-chloro-4-[(2S,3R)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile (145.5 mg) in tetrahydrofuran (2 mL) was added dropwise and the mixture was stirred at −78° C. for 1 hr. A solution of iodomethane (0.176 mL) in tetrahydrofuran (2 mL) was added dropwise at −78° C., and the mixture was stirred at −78° C. for 30 min and at 0° C. for 30 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/3) to give the title compound as a colorless solid (yield: 57.0 mg, 37%).

reactant | diisopropylamine | 0.208 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-chloro-4-[(2S,3R)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile | 145.5 mg | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@@H](CC1=O)O)CC | C13H13ClN2O2
reactant | iodomethane | 0.176 mL | IC | CH3I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-[(2S,3R,4R)-2-ethyl-3-hydroxy-4-methyl-5-oxopyrrolidin-1-yl]benzonitrile | yield: 57.0 mg, 37% | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@@H]([C@H](C1=O)C)O)CC | C14H15ClN2O2
